US09403798B2
2-(4-Fluorophenyl)-1-methyl-4-nitro-1H-pyrrole
To an N,N-dimethylformamide solution (0.50 mL) of 2-(4-fluorophenyl)-4-nitro-1H-pyrrole (10.0 mg, 0.0485 mmol) synthesized in Reference Synthesis Example 245, sodium hydride (2.50 mg, 0.0582 mmol) was added at 0° C. and the resultant mixture was stirred for 1 hour. Thereafter, methyl iodide (18.8 μL, 0.0582 mmol) was added to the reaction solution and the resultant mixture was stirred at room temperature for 7 hours and 30 minutes. After completion of the reaction, water was added to the reaction solution and extraction from the resultant mixture with toluene was performed. The organic layer was concentrated under reduced pressure to obtain the title compound as a crude product.

reactant | N,N-dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
reactant | 2-(4-fluorophenyl)-4-nitro-1H-pyrrole | 0.0485 mmol, 10.0 mg | FC1=CC=C(C=C1)C=1NC=C(C1)[N+](=O)[O-] | C10H7FN2O2
reactant | sodium hydride | 0.0582 mmol, 2.50 mg | [H-].[Na+]
reactant | methyl iodide | 0.0582 mmol, 18.8 μL | CI | CH3I
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-1-methyl-4-nitro-1H-pyrrole | FC1=CC=C(C=C1)C=1N(C=C(C1)[N+](=O)[O-])C | C11H9FN2O2
